US08980886B2
Synthesis of methyl 4-acetyl-1-(3-chloropyridin-2-yl)-1H-pyrrole-2-carboxylate
Under argon, 5.0 g (15.6 mmol) of methyl 4-bromo-1-(3-chloropyridin-2-yl)-1H-pyrrole-2-carboxylate were dissolved in THF, and 8.2 g (21.9 mmol) of (1-ethoxyvinyl)tributylstannane, 2.1 g of lithium chloride and 0.9 g (0.8 mmol) of tetrakis(triphenylphosphine)palladium were added at room temperature and the mixture was stirred under reflux for 48 h. The solvent was then distilled off, and the residue was taken up in 200 ml of THF and stirred in the presence of 12 ml of 2N hydrochloric acid at RT for a further 24 h. Once more, the solvent was distilled off, and the residue was dissolved in 120 ml of methyl tert-butyl ether and, at RT, stirred vigorously with 120 ml of saturated potassium fluoride solution for 1 h. The organic phase was separated off and concentrated. The desired product was isolated by chromatographic purification.

reactant | methyl 4-bromo-1-(3-chloropyridin-2-yl)-1H-pyrrole-2-carboxylate | 15.6 mmol, 5.0 g | BrC=1C=C(N(C1)C1=NC=CC=C1Cl)C(=O)OC | C11H8BrClN2O2
reactant | (1-ethoxyvinyl)tributylstannane | 21.9 mmol, 8.2 g | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 2.1 g | [Cl-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.8 mmol, 0.9 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-acetyl-1-(3-chloropyridin-2-yl)-1H-pyrrole-2-carboxylate | C(C)(=O)C=1C=C(N(C1)C1=NC=CC=C1Cl)C(=O)OC | C13H11ClN2O3
